US04001421
Similarly, 2-bromo-4-t-butylaminocarbonylthiazole is prepared by following the same procedure but using 2-bromo-4-carboxythiazole in place of the 5-position isomer. Similarly, by replacing t-butylamine with the amine reagents set forth in Preparation 2, the corresponding 2-bromo-4- and 5-substituted aminocarbonylthiazoles are respectively prepared.

reactant | 2-bromo-4-carboxythiazole | BrC=1SC=C(N1)C(=O)O | C4H2BrNO2S
reactant | t-butylamine | C(C)(C)(C)N | C4H11N
product | 2-bromo-4-t-butylaminocarbonylthiazole | BrC=1SC=C(N1)C(=O)NC(C)(C)C | C8H11BrN2OS
